US08314127B2
Acetonitrile (144 mL) and water (336 mL) were added to a mixture of 4-(3,4-dichloro-2-methyl-phenoxy)-piperidine hydrochloride (60 g), 4-(toluene-4-sulfonyloxymethyl)-piperidine-1-carboxylic acid tert-butyl ester (74.7 g) and potassium carbonate (57.3 g) and the mixture was heated to reflux for 7 h, then cooled over 30 min to 75° C. and held at 75° C. for 14 h, then heated over 30 min to reflux. Acetonitrile (192 mL) was added and then the mixture was cooled to 20° C. over 2 h to give a suspension. The suspension was filtered under vacuum, the filter cake was washed with water (180 mL) and then with acetonitrile (180 mL) and dried under vacuum at 40° C. to give 4-[4-(3,4-dichloro-2-methyl-phenoxy)-piperidin-1-ylmethyl]-piperidine-1-carboxylic acid tert-butyl ester as a white solid (73.9 g).

reactant | 4-(3,4-dichloro-2-methyl-phenoxy)-piperidine hydrochloride | 60 g | Cl.ClC=1C(=C(OC2CCNCC2)C=CC1Cl)C
reactant | 4-(toluene-4-sulfonyloxymethyl)-piperidine-1-carboxylic acid tert-butyl ester | 74.7 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COS(=O)(=O)C1=CC=C(C=C1)C | C18H27NO5S
reactant | potassium carbonate | 57.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | Acetonitrile | 192 mL | C(C)#N | C2H3N
solvent | water | 336 mL | O | H2O
solvent | Acetonitrile | 144 mL | C(C)#N | C2H3N
product | 4-[4-(3,4-dichloro-2-methyl-phenoxy)-piperidin-1-ylmethyl]-piperidine-1-carboxylic acid tert-butyl ester | 73.9 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1CCC(CC1)OC1=C(C(=C(C=C1)Cl)Cl)C | C23H34Cl2N2O3
